US05025031
Sulfamic acid 4-phenoxybutyl ester
The title compound was prepared by procedures of Example 16 from sulfamoyl chloride and 4-phenoxy-1-butanol in 54% yield as an off-white solid, mp 76°-77° C.

reactant | sulfamoyl chloride | S(N)(=O)(=O)Cl | ClH2NO2S
reactant | 4-phenoxy-1-butanol | O(C1=CC=CC=C1)CCCCO | C10H14O2
product | Sulfamic acid 4-phenoxybutyl ester | 54% yield | O(C1=CC=CC=C1)CCCCOS(N)(=O)=O | C10H15NO4S
